US05985900
To a suspension of 4-(pyrid-4-yl)oxybenzenesulfonic acid (1.3 kg) in acetonitrile (8 L), was added N,N-dimethylformamide (12.35 mL), and the viscous reaction mixture was heated to 75° C. Thionyl chloride (756 mL) was added to the reaction mixture over 30 minutes. The reaction mixture slowly became less viscous and became homogeneous after 45 minutes, which indicated the reaction was complete. A portion of the solvent (4 L) was evaporated under vacuum and tert-butyl methyl ether (4 L) was added. The resulting slurry was filtered under inert atmosphere. The filter cake was rinsed with tert-butyl methyl ether (2 L) and the solid dried under vacuum to yield 4-(pyrid-4-yl)oxybenzenesulfonyl chloride hydrochloride (1.35 kg) as a hygroscopic, off-white solid of pearlescent flakes: mp 182° C.; 1H NMR (CDCl3): δ 8.87 (d, J=7 Hz, 2H), 8.24 (d, J=8.5 Hz, 2H), 7.50 (d, J=8.5 Hz, 2H), 7.43 (d, J=7 Hz, 2H).

reactant | 4-(pyrid-4-yl)oxybenzenesulfonic acid | 1.3 kg | N1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)O | C11H9NO4S
reactant | N,N-dimethylformamide | 12.35 mL | CN(C=O)C | C3H7NO
reactant | Thionyl chloride | 756 mL | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 8 L | C(C)#N | C2H3N
product | 4-(pyrid-4-yl)oxybenzenesulfonyl chloride hydrochloride | 1.35 kg | Cl.N1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | InChI=1S/C11H8ClNO3S.ClH/c12-17(14,15)11-3-1-9(2-4-11)16-10-5-7-13-8-6-10;/h1-8H;1H
